US05064953
Preparation of 7-hydroxy-2-mercapto-5-methyl-s-triazolo[1,5-a]pyrimidine
A mixture of 3-amino-5-mercapto-s-triazole (10 g), ethyl acetoacetate (34 g), piperidine (10 ml) and ethanol (300 ml) was refluxed for four hours. After removing the solvent by distillation under reduced pressure, 150 ml water was added, the mixture was neutralized to pH 7.0 with hydrochloric acid and cooled, giving 5.9 g of the objective compound.

reactant | 3-amino-5-mercapto-s-triazole | 10 g | NC1=NNC(=N1)S | C2H4N4S
reactant | ethyl acetoacetate | 34 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | piperidine | 10 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 7-hydroxy-2-mercapto-5-methyl-s-triazolo[1,5-a]pyrimidine | 5.9 g | OC1=CC(=NC=2N1N=C(N2)S)C | C6H6N4OS
